US05733912
4a. 7a-(3-quinolinyl)-hexahydro-1H-pyrrolizine
A solution of 2.5M nBuLi (1.2 mL, 2.8 mmol) in hexanes was added to 3-bromoquinoline (386 μL, 2.8 mmol) in THF (10 mL) at -100° C. followed immediately by 1,2,3,5,6,7-hexahydropyrrolizinium perchlorate (200 mg, 0.9 mmol). The reaction mixture was allowed to stir for 2 hours at -100° C. and then 2N HCl was added at 0° C. After warming to ambient temperature, the mixture was poured over EtOAc and the phases were separated. The aqueous phase was basified with 15% NaOH solution and extracted with CH2Cl2 (3×). The organic fractions were combined, dried (MgSO4) and concentrated, and the residue was chromatographed (silica gel; EtOAc) to afford a pale solid (104 mg, 46%). mp 80°-83° C. MS (CI/NH3) m/e: 239 (M+H)+. 1 H NMR (CDCl3, 300 MHz) δ1.61-1.75 (m, 2H), 1.83-1.94 (m, 2H), 2.03-2.17 (m, 4H), 2.71-2.80 (m, 2H), 3.20-3.27 (m, 2H), 7.52 (ddd, J=7.0, 7.0, 1.1 Hz, 1H), 7.65 (ddd, J=7.0, 7.0, 1.5 Hz, 1H), 7.82 (d, J=8.1 Hz, 1H), 8.05 (d, J=8.5 Hz, 1H), 8.32 (d, J=2.2, Hz, 1H), 8.97 (d, J=2.2 Hz, 1H).

reactant | nBuLi | 2.8 mmol, 2.5M, 1.2 mL | [Li]CCCC
reactant | 3-bromoquinoline | 2.8 mmol, 386 μL | BrC=1C=NC2=CC=CC=C2C1 | C9H6BrN
reactant | 1,2,3,5,6,7-hexahydropyrrolizinium perchlorate | 0.9 mmol, 200 mg | Cl(=O)(=O)(=O)[O-].C1CC[N+]=2CCCC12
reactant | HCl | 2N | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 7a-(3-quinolinyl)-hexahydro-1H-pyrrolizine | 104 mg, 46% | N1=CC(=CC2=CC=CC=C12)C12CCCN2CCC1 | C16H18N2
